US08017626B2
Ethyl 2-(4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (0.200 g, 0.46 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.048 g, 0.087 mmol), Copper cyanide (0.194 g, 2.2 mmol) and Tris(dibenzylideneacetone)dipalladium (0.020 g, 0.022 mmol) in 1,4-dioxane (2 ml) were combined in a 10 ml tube. Tetraethylammonium cyanide (0.085 g, 0.54 mmol) and 1,4-dioxane (1 ml) were added and the tube was sealed and heated to 145° C. for 15 min under Argon in a microwave (Personal Chemistry 300 W). After cooling, the mixture was filtered and washed with methylene chloride (50 ml). The filtrate was washed with deionized water (3×50 ml), then with brine (50 ml), dried over magnesium sulfate then concentrated and dried in vacuo. Flash column chromatography (Silica gel, 0-100% methylene chloride in hexane) gave a solid which was washed with diethyl ether, filtered and dried in vacuo to give ethyl 2-(6-cyano-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (0.135 g, 90% yield).

reactant | Ethyl 2-(4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 0.46 mmol, 0.200 g | OC1=C(C(N(C2=CC=C(C=C12)I)C)=O)C(=O)NCC(=O)OCC | C15H15IN2O5
reactant | Copper cyanide | 2.2 mmol, 0.194 g | [Cu](C#N)C#N
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | Tetraethylammonium cyanide | 0.54 mmol, 0.085 g | [C-]#N.C(C)[N+](CC)(CC)CC
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.087 mmol, 0.048 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | Tris(dibenzylideneacetone)dipalladium | 0.022 mmol, 0.020 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | ethyl 2-(6-cyano-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 0.135 g, 90% yield | C(#N)C=1C=C2C(=C(C(N(C2=CC1)C)=O)C(=O)NCC(=O)OCC)O | C16H15N3O5
